US08685969B2
4. Benzyl 3-formyl-2-methylphenylcarbamate
To a solution of benzyl 3-cyano-2-methylphenylcarbamate (6.41 g, 24.07 mmol) in tetrahydrofuran (250 mL) at −78° C. was added DIBAL-H in dichloromethane (96 mL, 96 mmol) over 1 hr. The mixture was stirred at −78° C. for 45 min and then at room temperature for 5 hr. It was poured into ice cold water (300 mL) and the resulting mixture was stirred at room temperature for 30 min. The mixture was filtered through CELITE®, and the filtrate was concentrated to remove most of the THF. The remaining aqueous solution was extracted with ethyl acetate (4×150 mL). The combined extract was dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (5.65 g, 20.98 mmol, 87% yield) as a pale yellow solid.

reactant | benzyl 3-cyano-2-methylphenylcarbamate | 24.07 mmol, 6.41 g | C(#N)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C16H14N2O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | dichloromethane | 96 mmol, 96 mL | ClCCl | CH2Cl2
reactant | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | Benzyl 3-formyl-2-methylphenylcarbamate | 20.98 mmol, 5.65 g, 87% yield | C(=O)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C16H15NO3
